US04367238
Hydriodic acid (55-58%, 30 ml) was added portionwise to a solution of 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]propionic acid (3.8 g) in acetic anhydride (15 ml) with stirring under ice-cooling, and the mixture was refluxed under heating for 15 minutes. After cooling, the reaction mixture was poured into aqueous solution of sodium hydrogen sulfite and extracted with diethyl ether. The extract was washed with aqueous sodium hydrogen sulfite and water, dried and then evaporated. The residue was purified by column chromatography (silica gel, benzene) and crystallization from ethanol to give 3-methyl-7-(2-fluorophenoxy)-2,3-dihydrobenzofuran-2-one (1.95 g). mp 70°-71.5° C.

reactant | Hydriodic acid | 30 ml | I | HI
reactant | 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]propionic acid | 3.8 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)F)C(C(=O)O)C | C16H15FO4
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-methyl-7-(2-fluorophenoxy)-2,3-dihydrobenzofuran-2-one | 1.95 g | CC1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)F)=O | C15H11FO3
